US04136248
5-Butyl-2-Norbornene/1-Hexene Copolymer
50 ml dry toluene cosolvent, 7 ml 5-butyl-2-norbornene, 0.5 ml 1-hexene solution, and 0.6 ml diethylaluminum iodide solution were charged to a dry, nitrogen-purged 7 oz. bottle. 0.75 ml of the MoCl5 solution was shortstopped using a mixture of 0.1 ml ethanolamine, 0.5 ml Solution A and 1 ml of an antioxidant solution (0.1 g/ml of 2,2'-methylenebis-[4-methyl-6-t-butylphenol] in toluene). The polymer cement was coagulated using excess Solution A in a Waring blender. A solid weighing 6.4 grams was recovered after being filtered and vacuum dried at 60° C. It was found to be a ring-opened 5-butyl-2-norbornene/1-hexene copolymer having a DSV of about 0.88.

reactant | 5-butyl-2-norbornene | 7 ml | C(CCC)C1C2C=CC(C1)C2 | C11H18
reactant | 1-hexene | 0.5 ml | C=CCCCC | C6H12
reactant | diethylaluminum iodide | 0.6 ml | [I-].C(C)[Al+]CC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Butyl-2-Norbornene 1-Hexene | C(CCC)C1C2C=CC(C1)C2.C=CCCCC | InChI=1S/C11H18.C6H12/c1-2-3-4-10-7-9-5-6-11(10)8-9;1-3-5-6-4-2/h5-6,9-11H,2-4,7-8H2,1H3;3H,1,4-6H2,2H3
